US04358526
(1) Synthesis of 2-(N-4-Sulfoanilinocarbamoyl)-1-naphthol
To 13.2 g of 2-phenoxycarbonyl-1-naphthol, 8.6 g of sulfanilic acid, 20 ml of DMF and 14 ml of triethylamine were added. The mixture was stirred at 170° C. for 5 hours. The mixture was concentrated at reduced pressure and methanol was added to the residue. The crystals thus-precipitated were collected by filtration.

reactant | 2-phenoxycarbonyl-1-naphthol | 13.2 g | O(C1=CC=CC=C1)C(=O)C1=C(C2=CC=CC=C2C=C1)O | C17H12O3
reactant | sulfanilic acid | 8.6 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
product | 2-(N-4-Sulfoanilinocarbamoyl)-1-naphthol | S(=O)(=O)(O)C1=CC=C(NNC(=O)C2=C(C3=CC=CC=C3C=C2)O)C=C1 | C17H14N2O5S
